US04695571
Ethyl 5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole-7-carboxylate
A mixture of 20 g. (73.3 mmoles) of ethyl 5-ethyl-6-oxo-6,7-dihydro-furo[2,3-f]indole-7-carboxylate and 4 g. of 10% palladium-on-carbon was shaken in a hydrogen atmosphere at an initial pressure of 50 psi. After 2 hours the catalyst was filtered and the filtrate evaporated. The residue was recrystallized from diethyl ether, 12.6 g. (63% yield), m.p. 82°-84° C.

reactant | ethyl 5-ethyl-6-oxo-6,7-dihydro-furo[2,3-f]indole-7-carboxylate | 73.3 mmoles | C(C)N1C(C(C=2C=C3C(=CC12)C=CO3)C(=O)OCC)=O | C15H15NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Ethyl 5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole-7-carboxylate | 63% yield | C(C)N1C(C(C=2C=C3C(=CC12)CCO3)C(=O)OCC)=O | C15H17NO4
